US08975265B2
Step 1: 4-{2-[4-(1-amino-cyclobutyl)-phenyl]-8-methoxy-3-phenyl-imidazo[1,2-a]pyridin-6-yl}-pyrazole-1-carboxylic acid tert-butyl ester
A mixture of 1-[4-(6-bromo-8-methoxy-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutylamine (120 mg), [1-(tert-butoxycarbonyl)-1H-pyrazol-4-yl]boronic acid (170 mg) and potassium phosphate (170 mg) in toluene (0.9 mL), EtOH (1.86 mL) and water (0.93 mL) was placed under argon and bis(tri-tert-butyl phosphine)palladium(0) (13.7 mg) was added. The mixture was heated at 120° C. under microwave irradiation for 30 minutes. On cooling the mixture was partitioned between DCM and water and the phases separated. The organic portion was concentrated in vacuo to give the crude title compound which was used in the next step without further purification.

reactant | 1-[4-(6-bromo-8-methoxy-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutylamine | 120 mg | BrC=1C=C(C=2N(C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)N)C2=CC=CC=C2)OC | C24H22BrN3O
reactant | [1-(tert-butoxycarbonyl)-1H-pyrazol-4-yl]boronic acid | 170 mg | C(C)(C)(C)OC(=O)N1N=CC(=C1)B(O)O | C8H13BN2O4
reactant | potassium phosphate | 170 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 0.9 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 1.86 mL | CCO | C2H6O
solvent | water | 0.93 mL | O | H2O
catalyst | bis(tri-tert-butyl phosphine)palladium(0) | 13.7 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 4-{2-[4-(1-amino-cyclobutyl)-phenyl]-8-methoxy-3-phenyl-imidazo[1,2-a]pyridin-6-yl}-pyrazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=CC(=C1)C=1C=C(C=2N(C1)C(=C(N2)C2=CC=C(C=C2)C2(CCC2)N)C2=CC=CC=C2)OC | C32H33N5O3
